US07012077B2
A solution of 125 mg (corresponding to 0.30 mmol) of crude trans-Methanesulfonic acid 3-{4-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-prop-2-ynyl ester in 3 ml of methanol was cooled (0° C.), treated with 0.54 ml (3 mmol) of Dimethylamine (33% in EtOH 5.6M) and stirred for 20 h at RT. The solvent was evaporated and the residue extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried with Na2SO4, filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 99:1 to 97.5:2.5) gave 65 mg (62%) of pure trans-(5-Bromo-pyrimidin-2-yl)-[4-(3-dimethylamino-prop-1-ynyl)-cyclohexyl]-methyl-amine, mp: 83–84° C., dec.; MS: 351 (MH+, 1Br).

reactant | trans-Methanesulfonic acid 3-{4-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-prop-2-ynyl ester | 0.30 mmol, 125 mg | BrC=1C=NC(=NC1)N([C@@H]1CC[C@H](CC1)C#CCOS(=O)(=O)C)C | C15H20BrN3O3S
reactant | Dimethylamine | 3 mmol, 5.6M, 0.54 ml | CNC | C2H7N
solvent | methanol | 3 ml | CO | CH4O
product | trans-(5-Bromo-pyrimidin-2-yl)-[4-(3-dimethylamino-prop-1-ynyl)-cyclohexyl]-methyl-amine | 65 mg, 62% | BrC=1C=NC(=NC1)N(C)[C@@H]1CC[C@H](CC1)C#CCN(C)C | C16H23BrN4
